US07026409B2
4-(bromomethyl)perfluorobiphenyl (3.68 g, 9 mmol) and sodium trifluoromethane sulfinate (1.69 g, 10.8 mmol) were dissolved in propionitrile (30 mL), and the resultant solution was subjected to heating under reflux for 12 hours. After the reaction, the solution was cooled to room temperature, and water was added for extraction with ethyl acetate. The organic phase was dried with magnesium sulfate, filtrated, and the solvent was removed under reduced pressure. The crude product was purified by silica gel column chromatography (hexane-ethyl acetate=20:1 to 8:1 to 1:1), and the aimed {4-(pentafluorophenyl)-2,3,5,6-tetrafluorophenyl}(triflyl)methane (3.91 g, 8.46 mmol, 94% yield) was isolated.

reactant | 4-(bromomethyl)perfluorobiphenyl | 9 mmol, 3.68 g | BrCC1=C(C(=C(C(=C1F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F | C13H2BrF9
reactant | sodium trifluoromethane sulfinate | 10.8 mmol, 1.69 g | FC(S(=O)[O-])(F)F.[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | propionitrile | 30 mL | C(CC)#N | C3H5N
product | {4-(pentafluorophenyl)-2,3,5,6-tetrafluorophenyl}(triflyl)methane | 8.46 mmol, 3.91 g, 94% yield | FC1=C(C(=C(C(=C1C1=C(C(=C(C(=C1F)F)CS(=O)(=O)C(F)(F)F)F)F)F)F)F)F | C14H2F12O2S
